### ISSUE TITLE
`simp_scalar` doesn't close a goal

### ISSUE THREAD

**Issue by sonmarcho** [AeneasVerif/aeneas#539]
This is not completely a MWE, but shows the issue:
```lean
import Aeneas.Std
import Aeneas.ScalarTac

axiom List.toBits(ls: List (Aeneas.Std.UScalar ty)): List Bool

@[scalar_tac_simps, scalar_tac ls.toBits]
axiom List.length_toBits(ls: List (Aeneas.Std.UScalar ty)) : ls.toBits.length = ls.length * ty.numBits

namespace Aeneas

open Std

@[scalar_tac_simps]
noncomputable abbrev Std.Slice.toBits (s : Std.Slice (Std.UScalar ty)) : List Bool := s.val.toBits

@[scalar_tac_simps]
noncomputable abbrev Std.Array.toBits (s : Std.Array (Std.UScalar ty) n) : List Bool := s.val.toBits

  example (r i : Std.Usize) (dst : Std.Slice Std.U8) (s : Std.Array Std.U64 25#usize)
    (r_pos : 0 < (↑r : ℕ))

    (i1 : Std.Usize)
    (i1_post : (↑i1 : ℕ) = (↑i : ℕ) + (↑r : ℕ))
    (h : (↑i1 : ℕ) < (↑dst : List Std.U8).length)

    (s1 : Std.Slice Std.U8)
    (f : Std.Slice Std.U8 → Std.Slice Std.U8)

    (s1_post_1 : (↑s1 : List Std.U8) = List.slice (↑i : ℕ) (↑i1 : ℕ) (↑dst : List Std.U8))
    (s1_post_2 :
      ∀ (u : Std.Slice Std.U8),
        u.length = (↑i1 : ℕ) - (↑i : ℕ) →
          (↑(f u) : List Std.U8) = (↑dst : List Std.U8).setSlice! (↑i : ℕ) (↑u : List Std.U8))

    (s2 : Std.Slice Std.U8)
    (s2_post : s2.toBits = s1.toBits.setSlice! 0 (Std.Array.toBits s)) :
    (↑i1 : ℕ) ≤ (f s2).length := by
  /- `simp_scalar [*]` should close the goal but it does not -/
  /- In particular we need this intermediate `have`: -/
  have: s2.length = r := by scalar_tac
  -- Note that here we can actually close the goal with `simp_scalar [*]` (I'm detailing the proof because
  -- it's easier to understand what's going on)
  have: (f s2).length = dst.length := by simp_scalar [s1_post_2]
  scalar_tac

end Aeneas
```
The issue is probably linked to the fact that we do not re-saturate the context by looking at the goal when discharging proof obligations to apply conditional simp lemmas. This may be related to: https://github.com/AeneasVerif/aeneas/issues/516
